US04548759
N-sulfonylglycine (5 grams, 0.032 mole), prepared in the prior Example was suspended in methanol (50 mls) and sodium methoxide (25% sodium hydroxide in methanol) was added to adjust the pH of the suspension to 8-9. Paraformaldehyde (1 gram, 0.033 mole) and trimethylphosphite (3.8 mls, 0.032 moles) were added to the suspension and the resulting reaction mixture was then refluxed. The pH was adjusted with sodium methoxide solution from time to time to maintain it between 8 and 9. After 5 hours, the solids present in the reaction mixture were separated and the filtrate was evaporated. The resulting residue was refluxed with concentrated HCl (25 mls). After 3 hours, the solvent was removed to obtain the product glyphosate. This product was isolated and the structure confirmed by H and 31P NMR spectroscopy.

reactant | N-sulfonylglycine | 0.032 mole, 5 grams | S(=O)(=O)=NCC(=O)O | C2H3NO4S
reactant | sodium methoxide | C[O-].[Na+]
reactant | Paraformaldehyde | 0.033 mole, 1 gram | C=O | CH2O
reactant | trimethylphosphite | 0.032 moles, 3.8 mls | COP(OC)OC | C3H9O3P
solvent | methanol | 50 mls | CO | CH4O
product | glyphosate | C(C(=O)O)NCP(=O)(O)O | C3H8NO5P
